US04772587
Z-Pro-OH (1 equivalent), H-Pro-OMe hydrochloride (1 equivalent) and TEA (1 equivalent) were dissolved in dry methylene chloride, and WSCD (1 equivalent) was added under cooling with ice. Thereafter, the mixture was stirred at room temperature for 20 hours, and the reaction mixture was washed successively with IN HCl, water, saturated aqueous sodium bicarbonate, water and saturated brine. After drying over anhydrous magnesium sulfate, the solvent was distilled off under vacuum. The resulting crude product was purified by medium-pressure liquid column chromatography on silica gel to obtain the end compound. Z-Pro-Pro-OMe (1 equivalent) thus obtained was dissolved in ethanol, and boron trifluoride-ether complex (1 equivalent) and palladium on carbon (a small amount) were added. The mixture was subjected to catalytic reduction in a hydrogen atmosphere to remove the Z grup, and the solvent was distilled off under vacuum to obtain the end compound as an oil.

reactant | Z-Pro-OH | 1 equivalent | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
reactant | H-Pro-OMe hydrochloride | 1 equivalent | N1[C@H](C(=O)OC)CCC1.Cl
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Z-Pro-Pro-OMe | 1 equivalent | N1([C@H](C(=O)N2[C@H](C(=O)OC)CCC2)CCC1)C(=O)OCC1=CC=CC=C1 | C19H24N2O5
